US09227970B2
A mixture of tert-butyl 2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamate (1.34 g, 4.3 mmol), dichloromethane (10 ml) and hydrochloric acid (5 molar in diethyl ether (36.0 g, 30 ml, 987 mmol) was stirred for 18 hours at 25° C. The solvents were evaporated under reduced pressure and the residue treated with sodium hydroxide solution (2 molar in water). The mixture was extracted with ethyl acetate, the organic layers were washed with water and brine, dried over magnesium sulfate, filtrated and evaporated to dryness, affording 2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine (482 mg, 53%) as light brown solid. Mp.: 230° C. MS: m/z=212.1 (M+H+).

reactant | tert-butyl 2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamate | 4.3 mmol, 1.34 g | N1=CC(=CC=C1)C1=NN2C(C=CC(=C2)NC(OC(C)(C)C)=O)=N1 | C16H17N5O2
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 987 mmol, 30 ml, 36.0 g | C(C)OCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine | 482 mg, 53% | N1=CC(=CC=C1)C1=NN2C(C=CC(=C2)N)=N1 | C11H9N5
